US09302989B2
N-{4-[1-(3-methylbutyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-isopentyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromophenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.91 (d, J=6.4 Hz, 6H), 1.40-1.60 (m, 1H), 1.70 (q, J=6.8 Hz, 2H), 4.11 (t, J=7.1 Hz, 2H), 4.77 (s, 4H), 7.13-7.40 (m, 4H), 7.42-7.50 (m, 2H), 7.50-7.61 (m, 2H), 7.78 (s, 1H), 8.08 (s, 1H), 8.32 (s, 1H); MS (ESI(+)) m/e 375 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromophenyl)isoindoline-2-carboxamide | BrC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H13BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{4-[1-(3-methylbutyl)-1H-pyrazol-4-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C23H26N4O
